US06140332
4-(3-Chloro-anilino)-6-(biphen-4-yl)-7H-pyrrolo[2,3-d]pyrimidine
A suspension of 220 mg (0.72 mmol) of 4-chloro-6-(biphen-4-yl)-7H-pyrrolo[2,3-d]-pyrimidine and 151 μl (1.44 mmol) of 3-chloro-aniline in 5 ml of butanol is heated at boiling overnight. Cooling, filtering and washing with a large amount of ethanol and, finally, hexane yield the title compound; 1H-NMR (200 MHz, DMSO-d6): 12.46 (sb, 1H), 9.6 (s, 1H), 8.40 (s, 1H), 8.28 (m, 1H), 7.98 (d, J=8, 2H), 7.8 (m, 5H), 7.52 and 7.38 (2t, J=8, each 2H), 7.30 (s, 1H), 7.08 (db, J=8, 1H); MS: (M)+ =397.

reactant | 4-chloro-6-(biphen-4-yl)-7H-pyrrolo[2,3-d]-pyrimidine | 0.72 mmol, 220 mg | ClC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)C2=CC=CC=C2 | C18H12ClN3
reactant | 3-chloro-aniline | 1.44 mmol, 151 μl | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | butanol | 5 ml | C(CCC)O | C4H10O
product | 4-(3-Chloro-anilino)-6-(biphen-4-yl)-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C=C(NC=2C3=C(N=CN2)NC(=C3)C3=CC=C(C=C3)C3=CC=CC=C3)C=CC1 | C24H17ClN4
